US04920116
4-[(1-Propylsulfonyl)amino]benzoyl chloride
In a manner similar to Preparation 10 react 4-[(1-propylsulfonyl)amino]benzoic acid with SOCl2 to obtain the title compound.

reactant | 4-[(1-propylsulfonyl)amino]benzoic acid | C(CC)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C10H13NO4S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 4-[(1-Propylsulfonyl)amino]benzoyl chloride | C(CC)S(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C10H12ClNO3S
